US04644005
J3. ethyl 1-ethyl-5-(2-methyl-4,5-dihydro-1,3-dioxol-2-yl)oxindole-3 carboxylate
ethyl 5-(2-methyl-4,5-dihydro-1,3-dioxol-2-yl)oxindole-3-carboxylate, ethyl 1-methyl-5-(2-methyl-4,5-dihydro-1,3-dioxol-2-yl)oxindole-3-carboxylate, ethyl 1-n-propy-l-5-(2-methyl-4,5-dihydro-1,3-dioxol-2-yl)oxindole-3-carboxylate and ethyl 1-i-propyl-5-(2-methyl-4,5-dihydro-1,3-dioxol-2-yl)oxindole-3-carboxylate.

reactant | ethyl 5-(2-methyl-4,5-dihydro-1,3-dioxol-2-yl)oxindole-3-carboxylate | CC1(OCCO1)C=1C=C2C(C(NC2=CC1)=O)C(=O)OCC | C15H17NO5
reactant | ethyl 1-methyl-5-(2-methyl-4,5-dihydro-1,3-dioxol-2-yl)oxindole-3-carboxylate | CN1C(C(C2=CC(=CC=C12)C1(OCCO1)C)C(=O)OCC)=O | C16H19NO5
reactant | ethyl 1-n-propy-l-5-(2-methyl-4,5-dihydro-1,3-dioxol-2-yl)oxindole-3-carboxylate | C(CC)N1C(C(C2=CC(=CC=C12)C1(OCCO1)C)C(=O)OCC)=O | C18H23NO5
reactant | ethyl 1-i-propyl-5-(2-methyl-4,5-dihydro-1,3-dioxol-2-yl)oxindole-3-carboxylate | C(C)(C)N1C(C(C2=CC(=CC=C12)C1(OCCO1)C)C(=O)OCC)=O | C18H23NO5
product | ethyl 1-ethyl-5-(2-methyl-4,5-dihydro-1,3-dioxol-2-yl)oxindole-3 carboxylate | C(C)N1C(C(C2=CC(=CC=C12)C1(OCCO1)C)C(=O)OCC)=O | C17H21NO5
